US05932695
Methyl 4-(4-acetyl-2-methoxyphenoxy)butyrate (10 g) was added to cold 70% nitric acid (140 cm3) and the resulting orange solution was stirred for 2 h and then poured into a beaker containing ice-water (1 dm3). The slurry warmed with stirring overnight to give a yellow solid which was collected and recrystallised from methanol to give methyl 4-(4-acetyl-2-methoxy-5-nitrophenoxy)butyrate as a pale yellow solid (8.5 g). 1H NMR (CDCl3) δ2.21 (2H, m, J=6.6 Hz, CCH2C), 2.50 (3H, s, MeCO), 2.57 (2H, t, J=7.1 Hz, CH2CO), 3.7 (3H, s, OMe), 3.99 (3H, s, OMe), 4.16 (2H, t, J=6.2 Hz, CH2O), 6.75 (1H, s, aromatic) and 7.62 (1H, s, aromatic).

reactant | Methyl 4-(4-acetyl-2-methoxyphenoxy)butyrate | 10 g | C(C)(=O)C1=CC(=C(OCCCC(=O)OC)C=C1)OC | C14H18O5
reactant | nitric acid | 140 cm3 | [N+](=O)(O)[O-] | HNO3
product | methyl 4-(4-acetyl-2-methoxy-5-nitrophenoxy)butyrate | 8.5 g | C(C)(=O)C1=CC(=C(OCCCC(=O)OC)C=C1[N+](=O)[O-])OC | C14H17NO7
